US06166006
To a solution of 5-[4-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]phenyl]pentanoic acid (0.50 g) in THF (10 ml) were added at room temperature oxalyl chloride (0.21 ml) and a drop of DMF, and the mixture was stirred for 1 hour. Under reduced pressure, the mixture was concentrated, and the residue was dissolved in dichloromethane (10 ml). To the mixture was added at 0° C. aluminum chloride (0.35 g), and the mixture was stirred at 0° C. for 30 minutes and then at room temperature for 5 minutes. The mixture was added to ice/water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, saturated sodium bicarbonate solution and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:2) to give colorless crystals of 3-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (0.32 g).

reactant | 5-[4-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]phenyl]pentanoic acid | 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC=C(C=C1)CCCCC(=O)O | C23H29NO4S
reactant | oxalyl chloride | 0.21 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.32 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC2=C(CCCCC2=O)C=C1 | C23H27NO3S
